US05702887
treating N,N-dimethylaminoethyl 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylate with sodium hydroxide in methanol and acidifying to produce 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylic acid;

reactant | N,N-dimethylaminoethyl 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylate | CN(C)CCOC1=CC=CC=2N=C3C=C4C(=CC3=C(C12)C(=O)OCCN(C)C)C=CC=C4 | C26H29N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylic acid | CN(C)CCOC1=CC=CC=2N=C3C=C4C(=CC3=C(C12)C(=O)O)C=CC=C4 | C22H20N2O3
